US07825128B2
a) Preparation of (RS)—S-(4-nitrophenyl)-N-(morpholine-4-carbonyl)-S-methylsulfoximide
100 mg (0.5 mmol) (RS)—S-(4-nitrophenyl)-S-methylsulphoximide in 4 ml dimethylformamide are treated at room temperature with 23.97 mg sodium hydride (55%, 0.55 mmol). The mixture is stirred for 30 minutes at room temperature and for 30 minutes at 50° C. After cooling to room temperature 0.063 ml (0.55 mmol) 4-morpholinylcarbonyl chloride are added. The mixture is stirred for 30 minutes at room temperature and for 2 hours at 50° C. and finally quenched with methanol. After chromatographic purification (silica gel, hexane/ethyl acetate (0-50% ethyl acetate)), 87 mg (0.28 mmol, corresponding to 56% of theor.) of the desired product is obtained.

reactant | (RS)—S-(4-nitrophenyl)-S-methylsulphoximide | 0.5 mmol, 100 mg | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=N)C | C7H8N2O3S
reactant | sodium hydride | 0.55 mmol, 23.97 mg | [H-].[Na+]
reactant | 4-morpholinylcarbonyl chloride | 0.55 mmol, 0.063 ml | N1(CCOCC1)C(=O)Cl | C5H8ClNO2
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | (RS)—S-(4-nitrophenyl)-N-(morpholine-4-carbonyl)-S-methylsulfoximide | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=NC(=O)N1CCOCC1)C | C12H15N3O5S
